US04677098
A solution of 105 g of 4-nitrobutyric acid methyl ester (Bruson U.S. Pat. No. 2,342,119), 64 g of t-butyl acrylate, 1 ml triethyl amine in 200 ml of toluene is stirred and treated dropwise with 137 g of phenyl isocyanate. The mixture is stirred for 72 hours at room temperature and heated at 90° C. for two hours. The mixture is cooled, filtered to remove the diphenyl urea, and concentrated under reduced pressure. The resulting oil is chromatographed on elution with hexane:ethyl-acetate; 75:25) to yield 4,5-dihydro 5-(t-butoxycarbonyl)-3-isoxazolepropanoic acid methyl ester as a colorless oil. NMR (CDCl3) and 4.87 (t, J=9 Hz, 1H), 3.70 (s, 3H), 3.20 (d, J=9 Hz, 2HO, 2.67 (s, 4H), 1.47 (s, 9H). IR (cm-1) 2970, 1740, 1600, 1556, 1445, 1396, 1373, 1340, 1300, 1262, 1230.

reactant | 4-nitrobutyric acid methyl ester | 105 g | COC(CCC[N+](=O)[O-])=O | C5H9NO4
reactant | t-butyl acrylate | 64 g | C(C=C)(=O)OC(C)(C)C | C7H12O2
reactant | triethyl amine | 1 ml | C(C)N(CC)CC | C6H15N
reactant | phenyl isocyanate | 137 g | C1(=CC=CC=C1)N=C=O | C7H5NO
solvent | toluene | 200 ml | C1(=CC=CC=C1)C | C7H8
product | 4,5-dihydro 5-(t-butoxycarbonyl)-3-isoxazolepropanoic acid methyl ester | COC(CCC1=NOC(C1)C(=O)OC(C)(C)C)=O | C12H19NO5
